### PR TITLE
Heine cantor

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/realfun.v [hunk 1]
```diff
@@ -268,6 +268,168 @@ Unshelve. all: end_near. Qed.
...
+    * by rewrite in_itv/= xa xb.
+    * by rewrite in_itv/= ay yb.
+    * move: xdy; rewrite /ball/= /subspace_ball/=.
+      by rewrite mem_setE/= in_itv/= (ltW xa) (ltW xb)/= => -[].
+    * move: efxfy => /negP; rewrite -leNgt; apply: le_trans.
+      by rewrite ler_piMr ?invf_le1 ?ler1n// ltW.
+Unshelve. all: by end_near. Qed.
+
+Lemma within_continuous_unif a b (f : R -> R) :
+  {within `[a, b], continuous f} -> @unif_continuous (subspace `[a, b]) R f.
```
Comment (CohenCyril) [inline theories/realfun.v:355]: This should be generalized for any uniform compact space: a continuous function on a uniform compact space is uniformly continuous.
